US05318993
3,4-Dihydro-6-[(1,1-Dimethylethyl)dimethylsilyloxy]-2-[4-Methyl-6-[(4-Methylphenyl)sulfonyl]-6-[3-(Trifluoromethyl) phenyl]-3-hexenyl]-2,7,8-Trimethyl-2H-1-Benzopyran
4-Methyl-1-[[[3-(trifluoromethyl)phenyl]methyl]sulfonyl]benzene (30 mmole) was dissolved in 100 mL of dry THF. The mixture was cooled to about -78° under nitrogen, and n-butyllithium (30 mmole) was added dropwise giving rise to a colored anion [yellowish-orange]. The solution was stirred for about 1 hour at about -78° before the addition of HMPA (5 mL) and [2-(5-chloro-4-methyl-3(E)-pentenyl)]-3,4-dihydro-6-[(1,1- dimethylethyl)dimethyl silyloxy]-2,7,8-trimethyl-2H-1-benzopyran (25 mmole). The mixture was stirred for about 1 hour at about -78°, then warmed to about -5° for about 12 hours, and poured into 1N HCl. The mixture was extracted with fresh ether. The combined organic fractions were washed With water and dried (brine, MgSO4). Concentration in vacuo gave a crude material that was purified by flash chromatography (gradient 10:1 to 2:1 hexanes:ether) to give the coupled product as colorless oil: IR (film) 2930, 1472, 1450, 1424, 1330, 1166, 1146, 1130, 1088 cm-1 ; 1H NMR (CDCl3) δ 0.16 (s, 6H), 1.00 (s, 9H), 1.09, 1.10 (s, 3H), 1.28 (m, 2H), 1.41, 1.39 (s, 3H), 1.60 (m, 2H), 1.91 (m, 2H), 2.02 (s, 3H), 2.07 (s, 3H), 2.39 (s, 3H), 2.56 (m, 2H), 2.74 (t, J=13.9 Hz, 1H), 3.09 (d, J=11.9 Hz, 1H), 4.22 (d of t, J=12.1, 4.0 Hz, 1H), 5.06 (m, 1H), 6.30 (s, 1H), 7.10 (s, 1H), 7.18 (d, J=8.5 Hz, 2H), 7.36 (m, 4H), 7.48 (d, J=6.5 Hz, 1H); MS m/e 701 (MH+).

reactant | 4-Methyl-1-[[[3-(trifluoromethyl)phenyl]methyl]sulfonyl]benzene | 30 mmole | CC1=CC=C(C=C1)S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F | C15H13F3O2S
reactant | n-butyllithium | 30 mmole | C(CCC)[Li]
reactant | [2-(5-chloro-4-methyl-3(E)-pentenyl)]-3,4-dihydro-6-[(1,1- dimethylethyl)dimethyl silyloxy]-2,7,8-trimethyl-2H-1-benzopyran | 25 mmole | ClC/C(=C/CCC1(OC2=C(CC1)C=C(C(=C2C)C)O[Si](C)(C)C(C)(C)C)C)/C | C24H39ClO2Si
reactant | HCl | 1N | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | HMPA | 5 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 3,4-Dihydro-6-[(1,1-Dimethylethyl)dimethylsilyloxy]-2-[4-Methyl-6-[(4-Methylphenyl)sulfonyl]-6-[3-(Trifluoromethyl) phenyl]-3-hexenyl]-2,7,8-Trimethyl-2H-1-Benzopyran | CC(C)(C)[Si](OC=1C(=C(C2=C(CCC(O2)(C)CCC=C(CC(C2=CC(=CC=C2)C(F)(F)F)S(=O)(=O)C2=CC=C(C=C2)C)C)C1)C)C)(C)C | C39H51F3O4SSi
